US06596742B1
4-Hydrazinobenzenesulfonic Acid Morpholide (Intermediate)
5 g of 4-fluorobenzenesulfonic acid morpholide were dissolved in 15 ml of N-methylpyrrolidone and mixed with 2.5 g of hydrazine hydrate, and the mixture was heated at 100° C. for 1 hour. After cooling to room temperature, 75 ml of water were added and the mixture was stirred at room temperature. After 2 hours, the solid was filtered off with suction and recrystallized from isopropanol.

reactant | 4-fluorobenzenesulfonic acid morpholide | 5 g | FC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C10H12FNO3S
reactant | hydrazine hydrate | 2.5 g | O.NN
reactant | water | 75 ml | O | H2O
solvent | N-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | 4-Hydrazinobenzenesulfonic Acid Morpholide | N(N)C1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C10H15N3O3S
